US07192950B2
N-Benzo[1,3]dioxol-5-ylmethyl-2-[8-(2,2-difluoro-ethoxy)-1-(3,4-dimethoxy-benzyl)-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide
prepared by reaction of N-benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide with 2-bromo-1,1-difluoroethane.

reactant | N-benzo[1,3]dioxol-5-ylmethyl-2-[1-(3,4-dimethoxy-benzyl)-8-hydroxy-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | O1COC2=C1C=CC(=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)O)OC)CC1=CC(=C(C=C1)OC)OC)=O | C36H38N2O7
reactant | 2-bromo-1,1-difluoroethane | BrCC(F)F | C2H3BrF2
product | N-Benzo[1,3]dioxol-5-ylmethyl-2-[8-(2,2-difluoro-ethoxy)-1-(3,4-dimethoxy-benzyl)-7-methoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetamide | O1COC2=C1C=CC(=C2)CNC(C(C2=CC=CC=C2)N2C(C1=C(CCC2)C=C(C(=C1)OCC(F)F)OC)CC1=CC(=C(C=C1)OC)OC)=O | C38H40F2N2O7
